US07968591B2
Synthesis of 4-methyl-1-(4-methylbenzyl)-3-p-tolyl-1H-pyrrole-2-carboxylic acid
A reaction mixture of 4-methyl-1-(4-methylbenzyl)-3-p-tolyl-1H-pyrrole-2-carboxylic acid ethyl ester (550 mg, 1.58 mmol) and NaOH (1.26 g, 32 mmol) in MeOH (45 mL) and H2O (15 mL) was refluxed for 1 h. After removal of the solvent, aqueous 1N NaOH (100 mL) was added and extraction performed with EtOAc (2×20 mL). After drying of the combined organic phases over Na2SO4, filtration and removal of the solvent, the desired product 4-methyl-1-(4-methylbenzyl)-3-p-tolyl-1H-pyrrole-2-carboxylic acid was obtained, which was used without further purification.

reactant | 4-methyl-1-(4-methylbenzyl)-3-p-tolyl-1H-pyrrole-2-carboxylic acid ethyl ester | 1.58 mmol, 550 mg | C(C)OC(=O)C=1N(C=C(C1C1=CC=C(C=C1)C)C)CC1=CC=C(C=C1)C | C23H25NO2
reactant | NaOH | 32 mmol, 1.26 g | [OH-].[Na+]
solvent | MeOH | 45 mL | CO | CH4O
solvent | H2O | 15 mL | O | H2O
product | 4-methyl-1-(4-methylbenzyl)-3-p-tolyl-1H-pyrrole-2-carboxylic acid | CC=1C(=C(N(C1)CC1=CC=C(C=C1)C)C(=O)O)C1=CC=C(C=C1)C | C21H21NO2
